US07119205B2
2-amino-4-ethynyl-thiophene-3-carboxylic acid ethyl ester
2-t-Butoxycarbonylamino-4-ethynyl-thiophene-3-carboxylic acid ethyl ester (5.86 g, 19.85 mmol) was dissolved in anhydrous CH2Cl2 (125 mL). This was treated with 2,6-lutidine (4.62 mL, 39.70 mmol) followed by dropwise addition of t-butyldimethylsilyl trifluoromethanesulfonate (6.84 mL, 29.77 mmol). This was stirred at room temperature for 2 hr. Next it was poured into sat. NH4Cl (100 mL) and then extracted with EtOAc (3×100 mL). The combined extracts were washed with H2O (1×100 mL), and brine (1×100 mL). The organic layer was dried (Na2SO4), filtered and the solvent removed in vacuo. The residue was dissolved in anhydrous THF (85 mL) and treated with tetrabutylammonium fluoride (19.85 mL, 19.85 mmol, 1 M in THF). The reaction was then stirred at room temperature for 1 hr. The reaction was poured into sat. NH4Cl (100 mL) and then extracted with EtOAc (3×100 mL). The combined extracts were washed with H2O (1×100 mL), and brine (1×100 mL). The extracts were dried (Na2SO4), filtered and the solvent removed in vacuo. The crude product was purified by flash chromatography (SiO2, 1 EtOAc/9 hexanes) to afford the title compound (3.0 g, 77%). MS m/e (CI) 196.0 (M+H)+; 1H NMR (300 MHz, CDCl3): δ ppm 1.38 (t, 2H), 3.07 (s, 1H), 4.32 (q, 2H), 6.04 (s, 2H), 6.54 (s, 1H), 7.26 (s, 1H); MS m/e (CI) 196.0 (M+H)+.

reactant | 2-t-Butoxycarbonylamino-4-ethynyl-thiophene-3-carboxylic acid ethyl ester | 19.85 mmol, 5.86 g | C(C)OC(=O)C1=C(SC=C1C#C)NC(=O)OC(C)(C)C | C14H17NO4S
reactant | 2,6-lutidine | 39.70 mmol, 4.62 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | t-butyldimethylsilyl trifluoromethanesulfonate | 29.77 mmol, 6.84 mL | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
reactant | tetrabutylammonium fluoride | 19.85 mmol, 1 M, 19.85 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
solvent | CH2Cl2 | 125 mL | C(Cl)Cl | CH2Cl2
product | 2-amino-4-ethynyl-thiophene-3-carboxylic acid ethyl ester | 3.0 g, 77% | C(C)OC(=O)C1=C(SC=C1C#C)N | C9H9NO2S
